US04497741
An autoclave is charged with 128 g of phthalodinitrile, 40 g of AlCl3 and 650 g of 1,2-dichlorobenzene. After scavenging with nitrogen, the reaction mixture is heated for 26 hours to 170° C. After cooling and dearating, the suspension is stirred into 400 ml of water containing 100 g of trisodium phosphate. The batch is then evaporated to dryness in a rotary evaporator and the crude product is stirred in 750 ml of water. After addition of 60 g of 50% NaOH, heating to 75° C. and keeping this temperature for 2 hours, the crude product is isolated by filtration and the filter cake is stirred in 500 ml of water containing 80 g of 32% HCl (2 hours at 90°-95° C.). The product is filtered hot and washed, to give aluminium phthalocyanine which contains, per mole, about 1 mole of chlorine (monochloroaluminium phthalocyanine).

reactant | phthalodinitrile | 128 g | C1=CC=C(C(=C1)C#N)C#N | C8H4N2
reactant | AlCl3 | 40 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | trisodium phosphate | P(=O)([O-])([O-])[O-].[Na+].[Na+].[Na+]
reactant | HCl | Cl | ClH
solvent | water | 500 ml, 80 g | O | H2O
solvent | water | 400 ml, 100 g | O | H2O
solvent | 1,2-dichlorobenzene | 650 g | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | aluminium phthalocyanine | [Al].C=1C=CC=2C(C1)=C3NC2N=C4C=5C=CC=CC5C(=N4)N=C6C=7C=CC=CC7C(N6)=NC=8C=9C=CC=CC9C(=N3)N8 | InChI=1S/C32H18N8.Al/c1-2-10-18-17(9-1)25-33-26(18)38-28-21-13-5-6-14-22(21)30(35-28)40-32-24-16-8-7-15-23(24)31(36-32)39-29-20-12-4-3-11-19(20)27(34-29)37-25;/h1-16H,(H2,33,34,35,36,37,38,39,40);
